*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_SVOD_REGULATION_lpe.spi
#else
.include ../../../work/xsch/LELO_SVOD_REGULATION.spice
#endif
.include ../../../design/1812PS.lib
.include ../../../design/XGL6030.lib
*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-5

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
+ sky130_fd_pr__pfet_01v8__ajunction_mult = 9.9626e-1
+ sky130_fd_pr__pfet_01v8__pjunction_mult = 1.0009e+0

.param AVDD = {vdda}
.param Rout1 = (0.8*0.8*4*5)/((TEG**2)*0.95*0.85*0.1)
.param Rout2 = (0.8*0.8*4*5)/((TEG**2)*0.95*0.85*0.9)
.param Rout3 = (1.8*1.8*4*5)/((TEG**2)*0.05*0.85*0.1)
.param Rout4 = (1.8*1.8*4*5)/((TEG**2)*0.05*0.85*0.9)
*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VTEG    VTEG   0    dc    40m
VDD1    VDD1   0    dc   0.8
VDD2    VDD2   0    dc   1.8
VCTRL   VCTRL  0    pwl  0 0.9 1000u 0.9 1100u 0
VCTRL2  VCTRL2 0    pwl  0 0 10m 0 10.1m 0.9 14m 0.9 14.1m 0 
R1      OUT1   0    {Rout1}
R2      OUT2   0    {Rout2}
R3      OUT3   0    {Rout3}
R4      OUT4   0    {Rout4}

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.PROBE p(R1)
.PROBE p(R2)
.PROBE p(R3)
.PROBE p(R4)
.save v(VCTRL)
.save v(VDD1)
.save v(VDD2)
.save v(VTEG)
.save v(xdut.vout_0v8)
.save v(xdut.vout_1v8)
.save v(xdut.x1.vx)
.save v(xdut.teg)
.save v(xdut.vc1)
.save v(xdut.vc2)
.save v(xdut.x1.HSS1_1V8)
.save v(xdut.x1.HSS2_1V8)
.save v(xdut.x1.HSS1U_1V8)
.save v(xdut.x1.HSS2U_1V8)
.save v(xdut.x1.HSS1U_0V8)
.save v(xdut.x1.HSS2U_0V8)
.save v(xdut.x1.LSSU_0V8)
.save v(xdut.x1.LSS_1V8)
.save v(xdut.EN_LSS)
.save v(xdut.NEN_0V8)
.save v(xdut.EN_1V8)
.save v(xdut.x1.x8.VREF)
.save v(xdut.x1.x8.VMEAS_0V8)
.save v(xdut.x1.x8.VMEAS_1V8)
*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit



tran 1u 18m
write
quit


.endc

.end
